US08110579B2
2.2. N-(9-cyanobicyclo[3.3.1]non-9-yl)benzamide
Add a solution of 2.37 g (17.17 mmol) of potassium carbonate in 30 mL of water, then 1.37 mL (11.8 mmol) of benzoyl chloride, to a solution of 1.88 g (11.45 mmol) of 9-aminobicyclo[3.3.1]nonane-9-carbonitrile in 20 mL of THF. Stir the reaction mixture for 1 h at RT, then distribute in 100 mL of a 1:1 mixture of DCM/water. Wash the organic phase with 50 mL of water, dry over Na2SO4 and concentrate under reduced pressure. Solidify the residue obtained in 100 mL of pentane giving, after filtration and washing with pentane, 2.81 g of N-(9-cyanobicyclo[3.3.1]non-9-yl)benzamide in the form of white powder.

reactant | potassium carbonate | 17.17 mmol, 2.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 11.8 mmol, 1.37 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 9-aminobicyclo[3.3.1]nonane-9-carbonitrile | 11.45 mmol, 1.88 g | NC1(C2CCCC1CCC2)C#N | C10H16N2
reactant | DCM water | C(Cl)Cl.O
solvent | water | 30 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-(9-cyanobicyclo[3.3.1]non-9-yl)benzamide | C(#N)C1(C2CCCC1CCC2)NC(C2=CC=CC=C2)=O | C17H20N2O
